US08012976B2
To a stirred mixture of benzaldehyde (1.91 g, 18 mmol) and anhydrous sodium sulfate (21.3 g, 150 mmol) in anhydrous dichloromethane (100 mL) was added 4-aminoisobenzofuran-1(3H)-one (2.24 g, 15 mmol) at 0° C. After the addition, the mixture was stirred at room temperature for 6 days. The mixture was filtered and the cake was washed with dichloromethane (50 mL×3). The filtrate was concentrated to give crude product. The crude product was washed with petroleum ether to give (E)-4-(benzylideneamino)isobenzofuran-1(3H)-one (3.38 g, yield 95%) as a white solid. 1H-NMR (400 MHz, CDCl3) δ (ppm): 5.41 (s, 2H), 7.36-7.37 (d, J=7.6 Hz, 1H), 7.49-7.59 (m, 4H), 7.77-7.78 (d, J=7.6 Hz, 1H), 7.92-7.94 (d, J=8.0 Hz, 2H), 8.55 (s, 1H), LC-MS (ESI) m/z: 238 (M+1)+.

reactant | benzaldehyde | 18 mmol, 1.91 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium sulfate | 150 mmol, 21.3 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-aminoisobenzofuran-1(3H)-one | 15 mmol, 2.24 g | NC1=C2COC(C2=CC=C1)=O | C8H7NO2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (E)-4-(benzylideneamino)isobenzofuran-1(3H)-one | 3.38 g, yield 95% | C(/C1=CC=CC=C1)=N\C1=C2COC(C2=CC=C1)=O | C15H11NO2
